US05449785
A mixture of (1R,2R,3R)-2-(benzyloxymethyl)-3-methoxy-4,4-dimethylcyclohexanol (7 mg) and sodium hydride (5 mg, 60% dispersion in oil) and n-octyl bromide (20 ml) in dry N,N-dimethylformamide (0.3 ml) was stirred for 2 hrs at room temperature. The mixture was cooled to 0° C., and the reaction was quenched by addition of water. The pH of the mixture was adjusted to pH 7 with 0.1N hydrochloric acid. The mixture was extracted with diethyl ether, and the combined organic extracts were washed with brine, dried over anhydrous sodium sulfate, filtered, and concentrated. Purification of the residue by preparative thin layer chromatography (using n-hexane:ethyl acetate=10:1 as an eluent) gave benzyl [(1R,2R,6R)-2-methoxy-3,3-dimethyl-6-octyloxycyclohexyl]methyl ether (8 mg, 83%).

reactant | (1R,2R,3R)-2-(benzyloxymethyl)-3-methoxy-4,4-dimethylcyclohexanol | 7 mg | C(C1=CC=CC=C1)OC[C@@H]1[C@@H](CCC([C@@H]1OC)(C)C)O | C17H26O3
reactant | sodium hydride | 5 mg | [H-].[Na+]
reactant | n-octyl bromide | 20 ml | C(CCCCCCC)Br | C8H17Br
solvent | N,N-dimethylformamide | 0.3 ml | CN(C=O)C | C3H7NO
product | benzyl [(1R,2R,6R)-2-methoxy-3,3-dimethyl-6-octyloxycyclohexyl]methyl ether | 8 mg, 83% | CO[C@@H]1[C@@H]([C@@H](CCC1(C)C)OCCCCCCCC)COCC1=CC=CC=C1 | C25H42O3
